US08084485B2
To a solution of (R)-4-benzyl-3-((S)-2-(benzyloxymethyl)-3-methylbutanoyl)oxazolidin-2-one (127 g, 0.33 mol) in 3:1 THF/H2O (2 L), cooled in an ice bath, were added 30% aq H2O2 (235 mL, 2.07 mol) and LiOH (28 g, 0.66 mol). The mixture was stirred at 20° C. for 3 h, followed by cooling to 0° C. Then 1.5 M aq Na2SO3 (1.38 L, 3.83 mol) was added dropwise within 30 min. After addition of satd aq NaHCO3 (500 mL), volatiles were evaporated, and the aqueous phase was washed with Et2O (3×600 mL). The organic layers were discarded. The aqueous layer was adjusted to pH 3 by adding 2 N aq HCl and extracted with CH2 Cl2 (3×800 mL). The combined organic layers were washed with satd aq NaCl (1 L), dried over Na2SO4, and evaporated to give (S)-2-(benzyloxymethyl)-3-methylbutanoic acid (60 g, 82%). 1H NMR (400 MHz, CDCl3): 0.98 (m, 6H), 2.01 (m, 1H), 2.53 (m, 1H), 3.67 (m, 2H), 4.55 (s, 2H), 7.30 (m, 6H)

reactant | (R)-4-benzyl-3-((S)-2-(benzyloxymethyl)-3-methylbutanoyl)oxazolidin-2-one | 0.33 mol, 127 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)COCC1=CC=CC=C1)=O | C23H27NO4
reactant | H2O2 | 2.07 mol, 235 mL | OO | H2O2
reactant | LiOH | 0.66 mol, 28 g | [Li+].[OH-]
reactant | Na2SO3 | 3.83 mol, 1.5 M, 1.38 L | [O-]S(=O)[O-].[Na+].[Na+]
reactant | NaHCO3 | 500 mL | C(=O)(O)[O-].[Na+]
solvent | THF H2O | 2 L | C1CCOC1.O
product | (S)-2-(benzyloxymethyl)-3-methylbutanoic acid | 60 g, 82% | C(C1=CC=CC=C1)OC[C@@H](C(=O)O)C(C)C | C13H18O3
